US08455522B2
The mixture of 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one (115 mg, 0.42 mmol), N-((5-bromopyridin-3-yl)(cyclopropyl)methyl)ethane-sulfonamide (133 mg, 0.42 mmol), PdCl2(dppf).CH2Cl2 (34 mg, 0.04 mmol) and Na2CO3 (2 M in water, 0.42 mL, 0.83 mmol) in DMF (6 mL) was heated at 100° C. for 3 h. After concentration, the residue was diluted with DCM, and subsequently filtered to remove insoluble solid. The filtrate was concentrated and purified by flash column (MeOH—CH2Cl2, v/v, 0-4%) to give N-(cyclopropyl(5-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)pyridin-3-yl)methyl)ethanesulfonamide (87 mg, 54%); ESI-MS m/z: 388 [M+1]+, Retention time 1.35 min; 1H-NMR (MeOD, 400 MHz) δ 8.80 (1H, d, J=2.0 Hz), 8.62 (1H, d, J=2.0 Hz), 8.20 (1H, t, J=2.0 Hz), 7.54 (1H, d, J=2.4 Hz), 7.50 (1H, dd, J=8.4, 24 Hz), 7.42 (1H, d, J=84 Hz), 3.95 (1H, d, J=8.8 Hz), 3.52 (3H, s), 3.05-2.92 (2H, m), 1.36-1.30 (1H, m), 1.30 (1H, t, J=7.2 Hz), 0.81-0.77 (1H, m), 0.66-0.62 (2H, m), 0.55-0.47 (1H, m)

reactant | 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one | 0.42 mmol, 115 mg | CN1C(OC2=C1C=C(C=C2)B2OC(C(O2)(C)C)(C)C)=O | C14H18BNO4
reactant | N-((5-bromopyridin-3-yl)(cyclopropyl)methyl)ethane-sulfonamide | 0.42 mmol, 133 mg | BrC=1C=C(C=NC1)C(NS(=O)(=O)CC)C1CC1 | C11H15BrN2O2S
reactant | CH2Cl2 | 0.04 mmol, 34 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 0.83 mmol, 2 M, 0.42 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(cyclopropyl(5-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)pyridin-3-yl)methyl)ethanesulfonamide | 87 mg, 54% | C1(CC1)C(NS(=O)(=O)CC)C=1C=NC=C(C1)C=1C=CC2=C(N(C(O2)=O)C)C1 | C19H21N3O4S
